US05236884
Preparation of N-benzyloxycarbonyl-N-[4,4-dimethyl-2-[4-diethylaminophenyl]imino-3-oxopentanoyl]-2,4-dichloroaniline, hereinafter "Dye C", having the structural formula
Benzyl chloroformate (0.16 mL, 1.12 mmol) was added to a solution of N-[4,4-dimethyl-2-[4-diethylaminophenyl]imino-3-oxopentanoyl]-2,4-dichloroaniline, prepared as in Example 5 above (478 mg, 1.07 mmol), triethylamine (0.15 mL, 1.08 mmol) and DMAP (135 mg, 1.1 mmol) in dry dichloromethane (5 mL) and the resultant solution was stirred for 3 hours under nitrogen. Additional benzyl chloroformate (0.2 mL, 1.4 mmol) was then added, followed one hour later by more benzyl chloroformate (0.2 mL, 1.4 mmol) and additional triethylamine (0.15 mL, 1.08 mmol). The resultant solution was stirred under nitrogen for 7 days, after which the solvent was removed. The crude product was purified by flash chromatography on silica gel with 3% ethyl acetate/hexanes as eluant to give slightly impure Dye C. Further purification was effected by a second chromatographic separation on silica gel in the same manner as above. Dye C (240 mg, 39% yield) was obtained as an orange foam which had a principal absorption in the visible region of the electromagnetic spectrum at 438 nm, ε=15,900. The structure of this compound was confirmed by mass spectroscopy and by 1H and 13C NMR spectroscopy.

reactant | Benzyl chloroformate | 1.12 mmol, 0.16 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | N-[4,4-dimethyl-2-[4-diethylaminophenyl]imino-3-oxopentanoyl]-2,4-dichloroaniline | CC(C(C(C(=O)NC1=C(C=C(C=C1)Cl)Cl)=NC1=CC=C(C=C1)N(CC)CC)=O)(C)C | C23H27Cl2N3O2
reactant | triethylamine | 1.08 mmol, 0.15 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 1.4 mmol, 0.2 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | benzyl chloroformate | 1.4 mmol, 0.2 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | triethylamine | 1.08 mmol, 0.15 mL | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 1.1 mmol, 135 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-benzyloxycarbonyl-N-[4,4-dimethyl-2-[4-diethylaminophenyl]imino-3-oxopentanoyl]-2,4-dichloroaniline | 39% yield | C(C1=CC=CC=C1)OC(=O)N(C1=C(C=C(C=C1)Cl)Cl)C(C(C(C(C)(C)C)=O)=NC1=CC=C(C=C1)N(CC)CC)=O | C31H33Cl2N3O4
